US06680400B2
A mixture comprising 103 kg/hour of deionised water, 42.2 kg/hour 50% NaOH and 48.3 kg/hour phenol was continuously combined with a solution comprising 86.2 kg/hour methylene chloride and 27.5 kg/hour phosgene (8 mol % excess with respect to phenol) in a vertical, cooled tubular reactor. The reaction mixture was cooled to a temperature of 33° C., and a pH of 11.5 was measured after an average residence time of 15 seconds. 5.4 kg/hour of 50% NaOH were then added to said reaction mixture in the second step of the process, so that after a further residence time of 5 minutes the pH in the second reaction step was 8.5. In this continuously operated reaction, any fluctuations in the rates of addition which occurred were compensated for by adjusting the rate of addition of NaOH in each case. In the second step of the process, the reaction mixture was continuously mixed by passing it through a tube provided with constrictions. After the renewed addition of NaOH, the reaction temperature was adjusted to 30° C. by cooling. The aqueous, slightly alkaline phase contained 20 ppm phenol. The DPC yield was correspondingly high, namely 99.998% with respect to phenol. After separating the organic phase from the aqueous phase, the product was washed with 0.6% HCl and water, and 99.9% (as determined by GC) diphenyl carbonate was obtained after a final phase separation after removing the methylene chloride by evaporation.

reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | diphenyl carbonate | 99.9% | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
